US06900215B2
2-(3-Bromoimidazo[1,2-α]pyrimidin-7-yl)propan-2-ol was coupled with 3-fluoro-5-[2-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]pyridine as described in Example 65 to give 2-{3-[4-fluoro-3-(5-fluoropyridin-3-yl)phenyl]imidazo[1,2-α]pyrimidin-7-yl}propan-2-ol as an off-white solid (30 mg, 21%). Bis-hydrochloride salt (from ethyl acetate: ethanol (1:1)): δH (360 MHz, d6-DMSO) 1.56 (6H, s), 7.67-7.73 (1H, m), 7.83-7.89 (2H, m), 8.05-8.07 (1H, m), 8.11-8.15 (1H, m), 8.51 (1H, s), 8.71 (1H, s), 8.80 (1H, s), 9.36 (1H, d, J 7).

reactant | 2-(3-Bromoimidazo[1,2-α]pyrimidin-7-yl)propan-2-ol | BrC1=CN=C2N1C=CC(=N2)C(C)(C)O | C9H10BrN3O
reactant | 3-fluoro-5-[2-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]pyridine | FC=1C=NC=C(C1)C1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)F | C17H18BF2NO2
product | 2-{3-[4-fluoro-3-(5-fluoropyridin-3-yl)phenyl]imidazo[1,2-α]pyrimidin-7-yl}propan-2-ol | 30 mg, 21% | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(C)(C)O)C=2C=NC=C(C2)F | C20H16F2N4O
